US09162981B2
4-oxo-4,5,6,7-tetrahydroindole-2-carboxaldehyde
By using a procedure analogous to preparation of 6,6-dimethyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxaldehyde, 1,3-cyclohexane dione 4.55 g (39.36 mmol) was condensed with D-glucosamine.HCl 6.84 g (31.72 mmol) in water 40 mL in the presence of sodium carbonate 1.683 g, at ambient temperature for 11 days. (The polyol intermediate did not crystallize). The reaction mixture was extracted twice with chloroform (2×100 mL) and the aqueous phase was retained. The organic phases were back-extracted with water 150 mL. The combined aqueous phases were cooled in a 1 L flask on ice, solid sodium periodate 35.0 g (160 mmol) was gradually added over 10 minutes and the reaction was continued for additional 20 minutes on ice. The mixture was them made basic by gradual addition of saturated sodium bicarbonate solution 80 mL (foaming) and the stirring was continued for 30 minutes. The reaction mixture was filtered, the solids were washed with chloroform 0.5 L. The biphasic filtrates were shaken and separated, the aqueous phase was re-extracted with additional chloroform 0.5 L. The combined organic extracts were dried (MgSO4) and evaporated. The obtained crystalline residue was suspended in benzene (10 mL), collected by filtration, washed with benzene and dried. Y=534 mg (10% overall) of a pale yellow solid. 1H-NMR (d6-DMSO, 400 MHz): 12.50 (br s, 1H), 9.51 (s, 1H), 7.23 (d, 2.0 Hz, 1H), 2.81 (t, 6.3 Hz, 2H), 2.39 (dd, 6.8 Hz, 5.8 Hz, 2H), 2.03 (quint, 6.2 Hz, 2H)

reactant | 6,6-dimethyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxaldehyde | CC1(CC(C=2C=C(NC2C1)C=O)=O)C | C11H13NO2
reactant | 1,3-cyclohexane dione | 39.36 mmol, 4.55 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | D-glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
reactant | HCl | 31.72 mmol, 6.84 g | Cl | ClH
reactant | sodium carbonate | 1.683 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium periodate | 160 mmol, 35.0 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 80 mL | C([O-])(O)=O.[Na+]
solvent | water | 40 mL | O | H2O
product | 4-oxo-4,5,6,7-tetrahydroindole-2-carboxaldehyde | O=C1C=2C=C(NC2CCC1)C=O | C9H9NO2
